US05208247
N-[2-(2-Pyridinyl)ethyl]acetamide
The title compound is prepared by the procedure of Example 12 using 25 g of 2-(2-aminoethyl)pyridine, 22.2 ml of acetic anhydride, 2.57 g of 4-dimethylaminopyridine and 100 ml of pyridine. The residue is purified by column chromatography (silica gel:20% methyl alcohol/ethyl acetate) to give 7.5 g of desired product as a yellow oil.

reactant | 2-(2-aminoethyl)pyridine | 25 g | NCCC1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 22.2 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 2.57 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(2-Pyridinyl)ethyl]acetamide | 7.5 g | N1=C(C=CC=C1)CCNC(C)=O | C9H12N2O
